US08975288B2
3-chloro-N-(pyridin-4-yl)benzamide (11)
Employing 0.18 g (1.9 mmol) of 4-amino-pyridine and 0.51 g, (2.9 mmol) of 3-chlorobenzoyl chloride in the procedure described above and elution with CHCl3/MeOH/Et3N (9.8:0.1:0.1) resulted in white crystals (52% yield).

reactant | 4-amino-pyridine | 1.9 mmol, 0.18 g | NC1=CC=NC=C1 | C5H6N2
reactant | 3-chlorobenzoyl chloride | 2.9 mmol | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 3-chloro-N-(pyridin-4-yl)benzamide | 52% yield | ClC=1C=C(C(=O)NC2=CC=NC=C2)C=CC1 | C12H9ClN2O
